US07622492B2
A mixture of 2-((4S,7R)-1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid methyl ester (304 mg, 0.86 mmol) and 1 M NaOH (1.5 mL, 1.5 mmol) in tetrahydrofuran (2.4 mL) and methanol (1.2 mL) was stirred overnight at room temperature. The reaction mixture was partitioned between water (100 mL) and ether (100 mL). The aqueous layer was acidified to pH<3 with 1 M HCl and the resulting mixture was extracted with chloroform (100 mL) and then chloroform containing a small amount of methanol (100 mL). The combined organic extracts were dried (magnesium sulfate), filtered, evaporated, and dried under vacuum to give 2-((4S,7R)-1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid (188 mg, 64%) as an off-white solid).

reactant | 2-((4S,7R)-1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid methyl ester | 0.86 mmol, 304 mg | COC(C1=C(C=CC=C1)CN1N(C=2[C@@]3(CC[C@H](C2C1=O)C3(C)C)C)C)=O | C21H26N2O3
reactant | NaOH | 1.5 mmol, 1 M, 1.5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2.4 mL | O1CCCC1 | C4H8O
solvent | methanol | 1.2 mL | CO | CH4O
product | 2-((4S,7R)-1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid | 188 mg, 64% | CN1N(C(C=2[C@H]3CC[C@@](C12)(C3(C)C)C)=O)CC3=C(C(=O)O)C=CC=C3 | C20H24N2O3
